US05051422
N-[[4-[3-(1H-Imidazol-1-yl)phenyl]piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]benzamide, hydrochloride
In a manner similar to Example 1, react N-[[4-[3-(1H-imidazol-1-yl)phenyl-]-1-(phenylmethyl)piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride (2.5 g, 4.4 mmol) with H2 over Pd on carbon (1.2 g) to obtain the title compound.

reactant | N-[[4-[3-(1H-imidazol-1-yl)phenyl-]-1-(phenylmethyl)piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride | 4.4 mmol, 2.5 g | Cl.N1(C=NC=C1)C=1C=C(C=CC1)N1CC(N(CC1)CC1=CC=CC=C1)CNC(C1=CC=C(C=C1)NS(=O)(=O)C)=O
catalyst | Pd on carbon | 1.2 g | [Pd] | Pd
product | N-[[4-[3-(1H-Imidazol-1-yl)phenyl]piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]benzamide, hydrochloride | Cl.N1(C=NC=C1)C=1C=C(C=CC1)N1CC(NCC1)CNC(C1=CC=C(C=C1)NS(=O)(=O)C)=O | InChI=1S/C22H26N6O3S.ClH/c1-32(30,31)26-18-7-5-17(6-8-18)22(29)25-14-19-15-27(12-10-24-19)20-3-2-4-21(13-20)28-11-9-23-16-28;/h2-9,11,13,16,19,24,26H,10,12,14-15H2,1H3,(H,25,29);1H
